US04356183
(4R)-3-[(2S)-S-Benzoyl-3-mercapto-2-methylpropanoyl]-2-(4-methylphenyl)-4-thiazolidinecarboxylic acid (Compound 21)
4.5 g of (4R)-2-(4-methylphenyl)-4-thiazolidinecarboxylic acid and 4.3 g of sodium carbonate are dissolved in 25 ml of water and 4.9 g of (2S)-S-benzoyl-3-mercapto-2-methylpropanoyl chloride is added dropwise while stirring under ice-cooling. After the addition, the mixture is stirred under ice-cooling for 1 hour and acidified with dilute hydrochloric acid. The produced oil is extracted with ethyl acetate. The ethyl acetate layer is washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated to dryness in vacuo to give oil. The produced oil is purified by silica gel column chromatography to give the titled compound, yield 4.0 g (48%), mp. 131°-132° C. (ethyl acetatehexane), [α]D26 +117.6° (c=1.0, methanol).

reactant | (4R)-2-(4-methylphenyl)-4-thiazolidinecarboxylic acid | 4.5 g | CC1=CC=C(C=C1)C1SC[C@H](N1)C(=O)O | C11H13NO2S
reactant | sodium carbonate | 4.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (2S)-S-benzoyl-3-mercapto-2-methylpropanoyl chloride | 4.9 g | C(C1=CC=CC=C1)(=O)SC[C@@H](C(=O)Cl)C | C11H11ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
product | (4R)-3-[(2S)-S-Benzoyl-3-mercapto-2-methylpropanoyl]-2-(4-methylphenyl)-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1C(SC[C@H]1C(=O)O)C1=CC=C(C=C1)C)C | C22H23NO4S2
